US07553862B2
4-Benzylamino-1-(2,4-difluoro-phenyl)-5-phenyl-1,5-dihydro-imidazol-2-one
A mixture of 2.32 mmol benzaldehyde and 2.32 mmol benzylisocyanide in 1 ml methanol was treated with a solution of 2.32 mmol potassium cyanate in 0.5 ml water. 2.32 mmol of 2,4-difluoroaniline and 2.32 mmol of pyridinium hydrochloride was added and the mixture stirred at room temperature for 48 hours. The solid formed was filtered off and triturated with diethyl ether to give 103 mg of the title compound as a slightly brown solid. Yield=12%. MS (m/e): 378.5 (100%; M+H+), 400.1 (46%; M+Na).

reactant | benzaldehyde | 2.32 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzylisocyanide | 2.32 mmol | C(C1=CC=CC=C1)[N+]#[C-] | C8H7N
reactant | potassium cyanate | 2.32 mmol | [O-]C#N.[K+]
reactant | 2,4-difluoroaniline | 2.32 mmol | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | pyridinium hydrochloride | 2.32 mmol | Cl.[NH+]1=CC=CC=C1
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
product | 4-Benzylamino-1-(2,4-difluoro-phenyl)-5-phenyl-1,5-dihydro-imidazol-2-one | 103 mg, Yield=12% | C(C1=CC=CC=C1)NC1=NC(N(C1C1=CC=CC=C1)C1=C(C=C(C=C1)F)F)=O | C22H17F2N3O
